US06297266B1
400 mg of 2-guanidino-4-methyl-thiazole-5-carboxylic acid, 463 mg of ethyl 4-amino-phenyloxyacetate hydrochloride, 6 ml of DMF, 0.67 ml of N-MM and 759 mg of HBTU are stirred at RT for 22 hrs. The working up and purification are effected as described in Example 1. Crystallization from acetonitrile (MeCN) gives 368 mg of ethyl {4-[(2-guanidino-4-methyl-thiazole-5-carbonyl)-amino]-phenoxy}-acetate, m.p. 223° C.;, MS: 378 (M+H)+.

reactant | 2-guanidino-4-methyl-thiazole-5-carboxylic acid | 400 mg | N(C(=N)N)C=1SC(=C(N1)C)C(=O)O | C6H8N4O2S
reactant | ethyl 4-amino-phenyloxyacetate hydrochloride | 463 mg | Cl.NC1=CC=C(C=C1)OCC(=O)OCC
reactant | HBTU | 759 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
product | ethyl {4-[(2-guanidino-4-methyl-thiazole-5-carbonyl)-amino]-phenoxy}-acetate | 368 mg | N(C(=N)N)C=1SC(=C(N1)C)C(=O)NC1=CC=C(OCC(=O)OCC)C=C1 | C16H19N5O4S
